US04880781
To a stirred solution of 463 mg (2.43 mmol) of BOC-leucinol in 2 ml of tetrahydrofuran at -78° C. under argon is added 2.4 mL (2.4 mmol) of a 1 M solution of lithium bis(trimethylsilyl)amide in tetrahydrofuran. After 10 minutes, 0.3 ml (4.8 mmol) of methyliodide was added and the resulting mixture is allowed to warm to room temperature. It is then heated to reflux for 1 hour and then cooled. The mixture is partitioned between 40 ml of dichloromethane and 30 ml portions of dichloromethane. The combined residue is chromatographed on silica gel with 15% ethyl acetate in hexane to give 405 mg (1.75 mmol, 83%) of BOC-leucinol methyl ether. 1H-NMR (CDCl3): δ0.9 d (d, d×3H, J=6 Hz), 1.44, 3.33.

reactant | BOC-leucinol | 2.43 mmol, 463 mg | C(=O)(OC(C)(C)C)N[C@@H](CC(C)C)CO | C11H23NO3
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | methyliodide | 4.8 mmol, 0.3 ml | CI | CH3I
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | BOC-leucinol methyl ether | 1.75 mmol, 405 mg, 83% | COC[C@@H](NC(=O)OC(C)(C)C)CC(C)C | C12H25NO3
